Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / simvastatin / Penicillins
 
Attending: ___.
 
Chief Complaint:
"Not feeling right"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ - with h/o toxic multi-nodular goiter, HTN, HLD, NIDDM (last
HgbA1C = 7.3 in ___ and hyperthyroidism and baby aspirin
presents to the ED from OSH for reported word-finding difficulty
and altered mental status. 
She was in a GSOGH until the day of presentation. The day before
she sat in the sun for an hour. She then awoke and felt weak 
with
word finding difficulty. She then started drinking lots of water
because she thought she was dehydrated. "I wasn't getting any
better so I called ___ 
Per report in the ED she was having difficulty explaining why 
she
called the ambulance but on the floor she is able to give the
above history.  She was diverted to ___ earlier today where
she reported she had body weakness and dizziness since awakening
(approximately 0830). She was found to be hyponatremic (Na 124)-
last Na = 135 in ___ and hypertensive (SBP 220s) requiring
multiple doses of Labetolol (15mg IV, 200mg PO total) and HCTZ.
She was also given some IVF and IV magensium. A NCHCT and CXR
were unremarkable, and when possible she was transferred back to
___ as she is a ___ patient 
.
In ER: (Triage Vitals: |0 |98.0 |77 |130/67 |17 |96% RA  ) 
Meds Given: 
___ 23:23 IVF  NS  ___ Started 250 mL/hr 
Stop

___ 01:01 IV Magnesium Sulfate  ___ Started  
___ 03:28 IV Magnesium Sulfate 4 gm ___ Stopped
(2h ___ 
.
Fluids given: NS at 250 cc per hour
Radiology Studies:, consults called.
.
 
Past Medical History:
  Vitamin D deficiency 
  Hyperthyroidism 
  Osteoporosis 
  Hyperlipidemia 
  DM (diabetes mellitus), type 2 
  Advanced directives, counseling/discussion 
  Goiter, toxic, multinodular 
  Adrenal adenoma 
  Advance care planning 
  Multiple thyroid nodules 
  Macular drusen 
  Anatomical narrow angle 
  Severe stage glaucoma 
  Cataract, nuclear sclerotic, both eyes 
  HTN (hypertension) 
  Uses hearing aid 
  Primary open angle glaucoma of right eye, severe stage 
 
Social History:
___
Family History:
Her father died of stomach cancer.
Her mother died at ___ with DM on insulin
 
Physical Exam:
On Admission: 
98.3
PO 149 / 70
L Lying 76 18 96 RA 
CONS: NAD, comfortable appearing  
HEENT: ncat anicteric dry MM    
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
GI: +bs, mildly distended soft, NT, ND, no guarding or rebound  
back:  
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent  
+ nervous tremor but no pronator drift
She is able to walk independently with her walker from the
bathroom to the chair
PSYCH: calm, cooperative  
Psychiatric [X] WNL
[X] Appropriate [] Flat affect [] Anxious [] Manic [] 
Intoxicated
[] Pleasant [] Depressed [] Agitated [] Psychotic 
[] Combative

On Discharge: 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly
symmetric
SKIN: No obvious rashes or ulcerations noted on cursory skin 
exam
NEURO: Alert, oriented, face symmetric, speech fluent, moves all
limbs
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
On Admission: 
Other Urine Chemistry:
Creat:21 
Na:89 
K:24 
TotProt:<4 
Phos:29.6
124  86  12  189   AGap=16 
------------\ 
3.7  22  0.7 
Ca: 8.0 Mg: 1.1 P: 3.3
12.6 /31.6\  289 

On Discharge: 
___: WBC: 10.4*
___: Neuts%: 70.6

___: HGB: 10.2*
___: HCT: 31.9*
___: MCV: 85
___: RDW: 14.2

___: Plt Count: 274

___: INR: 1.1

___: Na: 138 
___: K: 3.9 
___: Cl: 96
___: CO2: 28

___: BUN: 8
___: Creat: 0.7
___: eGFR: ___

___: Glucose: 158* 

___: Ca: 8.6
___: Mg: 2.3
___: PO4: 2.8

___: ALT: 15
___: AST: 24
___: Alk Phos: 45
___: Total Bili: 0.4
___: Alb: 3.9
 
Brief Hospital Course:
The patient is an ___ year old community dwelling female with DM 
II on oral medications, HTN, HLD who presents with symptomatic 
hyponatremia and hypomagnesemia 

HYPONATREMIA:
HYPOMAGNESEMIA
This is presumed to be hypovolemic hypotonic hyponatremia (serum 
osmolality pending at the time of this note) I suspect she took 
her chlorthalidone, then became dehydrated in the sun, then 
awoke in the morning and drank a great deal of water which may 
have resulted in hyponatremia. She then went to ___ where she 
received more thiazide diuretic despite her hyponatremia and 
hypomagnesemia.  Serum sodium normalized with IVF and holding of 
her home chlorthalidone. Patient was advised to continue to hold 
this on discharge. She will follow up with her PCP to ensure 
serum sodium remains normal and to discuss need for replacement 
antihypertensive to replace the chlorthalidone. 

ANEMIA
- No old HCT in atrius records for comparison since ___
- will send iron studies but perhaps no further w/u as inpatient
unless HCT decreases
- per PCP's note ___: due aged out"

The total time spent today on discharge planning, counseling and 
coordination of care today was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN XR (Glucophage XR) 1000 mg PO BID 
2. Alendronate Sodium 35 mg PO QTHUR 
3. Clindamycin 1% Solution 1 Appl TP BID 
4. Pravastatin 20 mg PO QPM 
5. Januvia (SITagliptin) 50 mg oral DAILY 
6. Aspirin 81 mg PO DAILY 
7. Chlorthalidone 25 mg PO DAILY 
8. calcium carbonate-vitamin D3 500 mg(1,250mg) -400 unit oral 
BID 
9. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
10. Vitamin D ___ UNIT PO DAILY 
11. Spectravite Ultra Women (multivitamin-iron-folic acid) 
___ mg-mcg oral DAILY 
12. Methimazole 5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Alendronate Sodium 35 mg PO QTHUR  
3.  Aspirin 81 mg PO DAILY  
4.  calcium carbonate-vitamin D3 500 mg(1,250mg) -400 unit oral 
BID  
5.  Clindamycin 1% Solution 1 Appl TP BID  
6.  Januvia (SITagliptin) 50 mg oral DAILY  
7.  MetFORMIN XR (Glucophage XR) 1000 mg PO BID  
8.  Methimazole 5 mg PO DAILY  
9.  Pravastatin 20 mg PO QPM  
10.  Spectravite Ultra Women (multivitamin-iron-folic acid) 
___ mg-mcg oral DAILY  
11.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypovolemic Hyponatremia
Hypomagnesemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
 
 It was a pleasure taking part in your care here at ___! 

 Why was I admitted to the hospital? 
 - You were admitted to the hospital for hyponatremia which 
means low sodium level in the blood. This was caused by 
dehydration related to your decreased oral intake combined with 
the effect of Chlorthalidone, your water pill. 

 What was done for me while I was in the hospital? 
 - We have stopped your Chlorthalione and advise you to continue 
to hold it on discharge until you see your PCP and discuss 
whether it's safe to resume it or if you even need it. We also 
gave you fluids intravenously while you were here and monitored 
your electrolyte levels including your sodium very closely. 
Today your sodium level is normal (up from 126 when you came in 
to 136 this morning). 

 What should I do when I leave the hospital? 
 - You should continue to hydrate well, and remember that this 
includes not only water but also electrolytes which you can get 
from your food and can be supplemented as needed with drinks 
like pedialyte or vitamin water. 
 - You should stop taking your chlorthalidone for now (until you 
discuss further with your PCP) but you can safely resume all 
your other home medications. 
 - Make sure you check in with your primary care provider ___ 
2 weeks of discharge or sooner as needed. 

Sincerely, 
Your ___ Care Team 
It was a pleasure to participate in your care.
 
Followup Instructions:
___